US07101905B2
Part A: Diethyl 2-Acetyl-2-phenylmalonate
To a solution of diethyl 2-phenylmalonate (100 mmol) in anhydrous tetrahydrofuran (300 mL) is added sodium ethoxide (110 mmol). The mixture is stirred at room temperature for 30 minutes, followed by the addition of a solution of acetyl chloride (110 mmol) in tetrahydrofuran (50 mL). After the addition is complete, the mixture is heated to reflux for 3 hours, cooled to room temperature, neutralized with 2 N HCl, then concentrated in vacuo. The residue is partitioned between H2O and CHCl3, the organic extracts washed with sodium bicarbonate, water, and brine, dried (MgSO4), filtered and concentrated.

reactant | diethyl 2-phenylmalonate | 100 mmol | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | sodium ethoxide | 110 mmol | [O-]CC.[Na+]
reactant | acetyl chloride | 110 mmol | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 2 N | Cl | ClH
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | Diethyl 2-Acetyl-2-phenylmalonate | C(C)(=O)C(C(=O)OCC)(C(=O)OCC)C1=CC=CC=C1 | C15H18O5
